US07781443B2
A mixture of (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (732 mg), tetrakis(triphenylphosphine)palladium (catalytic amount), zinc cyanide (142 mg) and N,N-dimethylformamide (10 ml) is stirred at 95° C. under nitrogen flow for 8 hours. After cooling to room temperature, water and ethyl acetate are added to the reaction solution. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=4:1→2:1) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-6-cyano-2-ethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (572 mg). MS (m/z): 664 [M+H]+

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 732 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OS(=O)(=O)C(F)(F)F)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H31F9N6O6S
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 142 mg | [C-]#N.[Zn+2].[C-]#N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-6-cyano-2-ethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 572 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C#N)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H31F6N7O3
